US08633239B2
(R)-(1-methylpyrrolidin-2-yl)(5-(2-(phenylsulfonyl)ethyl)-1H-indol-3-yl)methanone (Formula V)
A suspension of (R)-benzyl-2-(5-(2-(phenylsulfonyl)ethyl)-1H-indole-3-carbonyl)-pyrrolidine-1-carboxylate (5.0 g) in 50 ml acetone, methanesulfonic acid, formaldehyde and 10% Pd/C was subject to hydrogenation at 45 psi. Upon completion of the reaction the catalyst was filtered off and the solvent removed under vacuum to provide the title compound in about 65-75% yield. Mass (M+Na) 419.5

reactant | (R)-benzyl-2-(5-(2-(phenylsulfonyl)ethyl)-1H-indole-3-carbonyl)-pyrrolidine-1-carboxylate | 5.0 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)C1=CNC2=CC=C(C=C12)CCS(=O)(=O)C1=CC=CC=C1 | C29H28N2O5S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | formaldehyde | C=O | CH2O
solvent | Pd/C | [Pd] | Pd
product | (R)-(1-methylpyrrolidin-2-yl)(5-(2-(phenylsulfonyl)ethyl)-1H-indol-3-yl)methanone | about 65-75% yield | CN1[C@H](CCC1)C(=O)C1=CNC2=CC=C(C=C12)CCS(=O)(=O)C1=CC=CC=C1 | C22H24N2O3S
